US05650410
A mixture of 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinazoline (10.0 g), ethylamine (70% aqueous solution, 206 g) and ethanol (200 ml)--dichloromethane (200 ml) was stirred at room temperature for 13 hours. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in dichloromethane. The dichloromethane layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel. The fractions eluted with chloroform - ethanol (5:1, v/v) gave 2-(N-ethylaminomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinazoline (5.7 g, 55%). This compound was recrystallized from ethanol. Colorless prisms, mp. 128°-130° C.

reactant | 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinazoline | 10.0 g | ClCC1=NC2=CC(=C(C=C2C(=N1)C1=CC(=C(C=C1)OC)OC)OC)OC | C19H19ClN2O4
reactant | ethylamine | 206 g | C(C)N | C2H7N
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-ethylaminomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinazoline | 5.7 g, 55% | C(C)NCN1CN=C(C2=CC(=C(C=C12)OC)OC)C1=CC(=C(C=C1)OC)OC | C21H27N3O4
